US05013730
2-Chloromethyl-4,5-dihydroxypyridine (1.5 mmol) and 4-methylthiopyrimidine (3 mmol) were heated at 100° C., under argon, for 30 minutes. The mixture was subsequently triturated with methanol at 0° C., filtered, washed and dried to give 1-(4,5-dihydroxypyridin-2-ylmethyl)-4-methylthiopyrimidinium chloride hydrochloride; (DMSO-d6) 2.75(s,3H); 5.90(s,2H); 7.45(s,1H); 8.15(s,1H); 8.17(q,1H); 9.05(q,1H); 9.75(s,1H).

reactant | 2-Chloromethyl-4,5-dihydroxypyridine | 1.5 mmol | ClCC1=NC=C(C(=C1)O)O | C6H6ClNO2
reactant | 4-methylthiopyrimidine | 3 mmol | CSC1=NC=NC=C1 | C5H6N2S
product | 1-(4,5-dihydroxypyridin-2-ylmethyl)-4-methylthiopyrimidinium chloride hydrochloride | Cl.[Cl-].OC1=CC(=NC=C1O)C[N+]1=CN=C(C=C1)SC | InChI=1S/C11H11N3O2S.2ClH/c1-17-11-2-3-14(7-13-11)6-8-4-9(15)10(16)5-12-8;;/h2-5,7H,6H2,1H3,(H-,12,15,16);2*1H
